US08541455B2
A mixture of 1 g (3.84 mmol) of 6-chloro-N-cyclopentylpyridine-3-sulfonamide, 1.32 g (9.59 mmol) of K2CO3 and 0.88 mL (4.99 mmol) of [(3-bromopropoxy)methyl]benzene in 8 mL of anhydrous DMF is heated for 12 hours at 40° C. After cooling to room temperature, the medium is taken up in 300 mL of EtOAc, washed successively with water (2×100 mL), saturated NaHCO3 solution (100 mL) and brine (100 mL), dried over Na2SO4 and then concentrated under reduced pressure and purified by chromatography on a column of silica gel, eluting with a cyclohexane/EtOAc gradient of 0 to 10% EtOAc. 1.65 g of N-[3-(benzyloxy)propyl]-6-chloro-N-cyclopentylpyridine-3-sulfonamide are thus obtained in the form of an oil.

reactant | 6-chloro-N-cyclopentylpyridine-3-sulfonamide | 3.84 mmol, 1 g | ClC1=CC=C(C=N1)S(=O)(=O)NC1CCCC1 | C10H13ClN2O2S
reactant | K2CO3 | 9.59 mmol, 1.32 g | C(=O)([O-])[O-].[K+].[K+]
reactant | [(3-bromopropoxy)methyl]benzene | 4.99 mmol, 0.88 mL | BrCCCOCC1=CC=CC=C1 | C10H13BrO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | N-[3-(benzyloxy)propyl]-6-chloro-N-cyclopentylpyridine-3-sulfonamide | 1.65 g, Yield=99% | C(C1=CC=CC=C1)OCCCN(S(=O)(=O)C=1C=NC(=CC1)Cl)C1CCCC1 | C20H25ClN2O3S
